US05112834
I. 6-chloro-3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine
A mixture of 0.5 g 8-benzyloxy-6-chloro-3-formyl-2-methyl-imidazo[1,2-a]pyridine, 2.5 ml acetic acid and 2.5 ml 48% aqueous hydrogen bromide solution is heated under reflux for 2 hours. The mixture is cooled to room temperature, poured over 50 ml icewater, neutralized with 1 N-sodium hydroxide solution and extracted 3×with 20 ml ethyl acetate each time. The combined extracts are dried over sodium sulfate, the solvent is stripped off and the solid residue is recrystallized from dioxane. 0.2 g of the title compound of m.p. 256° C. (decomposition) is obtained.

reactant | 8-benzyloxy-6-chloro-3-formyl-2-methyl-imidazo[1,2-a]pyridine | 0.5 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)C(=C(N2)C)C=O | C16H13ClN2O2
reactant | hydrogen bromide | 2.5 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 0.2 g | ClC=1C=C(C=2N(C1)C(=C(N2)C)C=O)O | C9H7ClN2O2
